US04562189
A mixture of 39.0 g (0.2 moles) of 3,4-dichlorobenzyl chloride, 31.6 g (0.2 moles) of ethyl N-piperazinocarboxylate, 22.0 g (0.21 moles) of anhydrous sodium carbonate and 200 ml of xylene was refluxed for 3 hours using a Dean-Stark trap. Then the mixture was stirred at room temperature for 16 hours, filtered and washed with xylene. The filtrate was evaporated in vacuo and gave a syrup. A 750 ml amount of 4N potassium hydroxide in 95% ethanol was added to the syrup and the mixture was refluxed for 18 hours. The reaction mixture was evaporated to a paste and 250 ml of water was added. The solution was extracted twice with 250 ml of chloroform. The extracts were combined, dried over magnesium sulfate and filtered. The filtrate was evaporated in vacuo and gave a syrup. The syrup was distilled, bp 132°-135° C./0.05 mm of mercury and gave 9.3 g of 1-(3,4-dichlorobenzyl)piperazine as a colorless liquid.

reactant | 3,4-dichlorobenzyl chloride | 0.2 moles, 39.0 g | ClC=1C=C(CCl)C=CC1Cl | C7H5Cl3
reactant | ethyl N-piperazinocarboxylate | 0.2 moles, 31.6 g | CCOC(=O)N1CCNCC1 | C7H14N2O2
reactant | sodium carbonate | 0.21 moles, 22.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium hydroxide | 4N | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-(3,4-dichlorobenzyl)piperazine | 9.3 g | ClC=1C=C(CN2CCNCC2)C=CC1Cl | C11H14Cl2N2
